* C:\Users\usuario\137\Facultad\circuitos 2\TDCE\Etapa lineal.asc
Vi vi 0 {Vi}
Vref vref 0 {VREF} AC 0
RC1 vi N002 {RC1}
RD1 vo V_f {RD1}
RD2 V_f 0 {RD2}
RL vo 0 {RL}
Q1 N007 vref N008 0 BC547C
Q2 N001 V_amp v_paso 0 BC547B
Q3 v_paso N001 vi 0 2SB688
Q4 N005 V_f N008 0 BC547C
RE1 N011 0 {RE}
RC2 vi N003 {RC2}
Q6 N007 N005 N002 0 BC557B
Q5 N005 N005 N003 0 BC557B
Q7 V_amp N009 N012 0 BC547C
RB2 N012 0 {RB2}
RB1 vi N006 {RB1}
Q8 V_amp N007 N006 0 BC557C
Q9 N008 N009 N011 0 BC547C
Q10 N009 N009 N010 0 BC547C
R1 vref N009 1.5k
R2 N010 0 {RE}
R5 vo V_paso {RS}
CL vo 0 {CL}
RP3 V_paso N004 {RP1}
RP4 N004 0 {RP2}
Q12 V_amp N004 vo 0 BC547C
.model NPN NPN
.model PNP PNP
.lib C:\Users\usuario\Documents\LTspiceXVII\lib\cmp\standard.bjt
* .step param RC1 list 500 1k
* Regulacion de carga
* Transistor de paso
* Realimentador\ntension
* Carga
* Amplificador
* Alimentacion
* Generador
* .step param VREF 1.5 1.6 0.01
* Eficiencia
* Regulacion de linea
* .dc Vi 0 10\n.param RL=3.33\n \n.meas DC Vol1rl FIND V(vo) AT=9.3\n.meas DC Vol2rl FIND V(vo) AT=9.7\n.meas DC RegLin PARAM ((Vol2rl - Vol1rl) / 0.4)
* .op\n.step param RL list 3.33 500\n \n.meas OP Vo1rc FIND V(vo) AT 500\n.meas OP Vo2rc FIND V(vo) AT 3.33\n.meas OP Io1rc FIND I(RL) AT 500\n.meas OP Io2rc FIND I(RL) AT 3.33\n.meas OP RegCar PARAM (-(Vo2rc - Vo1rc) / (Io2rc - Io1rc) )
.param RC1=500
* Parametros generales
* Pruebas
* .dc Vi 9.3 9.7\n.param RL=3.33\n \n.meas DC EfiMin MIN -100*(V(vo)*I(RL))/(V(vi)*I(Vi))\n.meas DC EfiMax MAX -100*(V(vo)*I(RL))/(V(vi)*I(Vi))
.param VREF=1.56
.param Vi=9.5
* .step param RE list 500 1k 2k
.param RE=1k
.param RB1=51
* .step param RB1 list 46 56
.param RB2=1.8k
* .step param RB2 1.5k 3k 500
.param RC2=500
.model TBJ-NPN-1 NPN(IS=4.679E-14 NF=1.01 ISE=2.642E-15 NE=1.581 BF={BETA} IKF=0.1371 VAF=52.64 NR=1.019 ISC=2.337E-14 NC=1.164 BR=11.57 IKR=0.1144 VAR=364.5 RB=1 IRB=1.00E-06 RBM=1 RE=0.2598 RC=1 XTB=0 EG=1.11 XTI=3 CJE=1.229E-11 VJE=0.5591 MJE=0.3385 TF=4.689E-10 XTF=160 VTF=2.828 ITF=0.8842 PTF=0 CJC=4.42E-12 VJC=0.1994 MJC=0.2782 XCJC=0.6193 TR=1.00E-32 CJS=0 VJS=0.75 MJS=0.333 FC=0.7936 Vceo=45 Icrating=100m mfg=Philips)
.param BETA 458.7
* .step param BETA list 420 520 800
.model 2SB688 PNP(Bf=70 Br=1 Is=73f Eg=1.11 Cjc=4.8p Cje=10p Vaf=100 Tf=1.923n Tr=10n Mjc=.330 Vjc=.75 Mje=.33 Vje=.75 Cjs=2p )
* .op\n.step dec param RL 500 0.1m 5
* Limitador de corriente
* Modelos
* .step param RC2 list 1k 2k 5k
* Tension esperada
* .op\n.step param RL 3.33 500 10\n.meas OP VoMin MIN V(vo)\n.meas OP VoMax MAX V(vo)
.param CL=2.2u
.param RD1=2.2k RD2=1k
* .step dec param RD2 1 10k 4
.param RS=2.2
.param RP1=4.7k RP2=4.7k
* .step param RP1 list 1k 2k 2.5k  5k
* Relimentador\ncorriente
* .step param RS list 1.5 1.7 2.2 2.5
* Limitador de corriente
* LDO
.dc Vi 0 10
.param RL=3.33
.meas DC VpasoMax MAX V(v_paso)
.meas DC ViMin FIND V(vi) WHEN V(v_paso) = VpasoMax - 0.05
.meas DC LDO PARAM ViMin - VpasoMax
.backanno
.end
